Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
Br[CH2:1][c:2]1[cH:11][cH:10][c:5]([C:6]([F:7])([F:8])[F:9])[cH:4][cH:3]1.[CH3:12][CH2:13][O:14][C:15](=[O:16])[CH:17]([CH2:18][CH:19]([CH3:20])[CH3:21])[c:22]1[cH:23][c:24](-[c:25]2[cH:26][cH:27][c:28]([C:29]([F:30])([F:31])[F:32])[cH:33][cH:34]2)[cH:35][c:36]([CH:37]2[CH2:38][CH2:39][CH2:40][CH:41]([C:42]([F:43])([F:45])[F:44])[NH:46]2)[cH:47]1>>[CH2:1]([c:2]1[cH:3][cH:4][c:5]([C:6]([F:7])([F:8])[F:9])[cH:10][cH:11]1)[N:46]1[CH:37]([c:36]2[cH:35][c:24](-[c:25]3[cH:26][cH:27][c:28]([C:29]([F:30])([F:31])[F:32])[cH:33][cH:34]3)[cH:23][c:22]([CH:17]([C:15]([O:14][CH2:13][CH3:12])=[O:16])[CH2:18][CH:19]([CH3:20])[CH3:21])[cH:47]2)[CH2:38][CH2:39][CH2:40][CH:41]1[C:42]([F:43])([F:44])[F:45],[CH3:12][CH2:13][O:14][C:15](=[O:16])[CH:17]([CH2:18][CH:19]([CH3:20])[CH3:21])[c:22]1[cH:23][c:24](-[c:25]2[cH:26][cH:27][c:28]([C:29]([F:30])([F:31])[F:32])[cH:33][cH:34]2)[cH:35][c:36]([CH:37]2[CH2:38][CH2:39][CH2:40][CH:41]([C:42]([F:43])([F:44])[F:45])[NH:46]2)[cH:47]1.[Br:101][CH2:1][c:2]1[cH:3][cH:4][c:5]([C:6]([F:7])([F:8])[F:9])[cH:10][cH:11]1>>[CH2:1]([c:2]1[cH:3][cH:4][c:5]([C:6]([F:7])([F:8])[F:9])[cH:10][cH:11]1)[N:46]1[CH:37]([c:36]2[cH:35][c:24](-[c:25]3[cH:26][cH:27][c:28]([C:29]([F:30])([F:31])[F:32])[cH:33][cH:34]3)[cH:23][c:22]([CH:17]([C:15]([O:14][CH2:13][CH3:12])=[O:16])[CH2:18][CH:19]([CH3:20])[CH3:21])[cH:47]2)[CH2:38][CH2:39][CH2:40][CH:41]1[C:42]([F:43])([F:44])[F:45],SN2,"[(46, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O=[CH:1][CH2:2][c:3]1[c:4]([F:5])[cH:6][cH:7][c:8]([Br:9])[c:10]1[OH:11].[CH3:12][c:13]1[cH:14][cH:15][c:16]2[c:17]([N:18]3[CH2:23][CH2:22][NH:21][CH2:20][CH2:19]3)[cH:24][cH:25][cH:26][c:27]2[n:28]1>>[CH2:1]([CH2:2][c:3]1[c:4]([F:5])[cH:6][cH:7][c:8]([Br:9])[c:10]1[OH:11])[N:21]1[CH2:20][CH2:19][N:18]([c:17]2[c:16]3[cH:15][cH:14][c:13]([CH3:12])[n:28][c:27]3[cH:26][cH:25][cH:24]2)[CH2:23][CH2:22]1,[CH3:12][c:13]1[cH:14][cH:15][c:16]2[c:17]([N:18]3[CH2:19][CH2:20][NH:21][CH2:22][CH2:23]3)[cH:24][cH:25][cH:26][c:27]2[n:28]1.[O:101]=[CH:1][CH2:2][c:3]1[c:4]([F:5])[cH:6][cH:7][c:8]([Br:9])[c:10]1[OH:11].[H+:301].[BH3-:302]C#N.[Na+]>>[CH2:1]([CH2:2][c:3]1[c:4]([F:5])[cH:6][cH:7][c:8]([Br:9])[c:10]1[OH:11])[N:21]1[CH2:20][CH2:19][N:18]([c:17]2[c:16]3[cH:15][cH:14][c:13]([CH3:12])[n:28][c:27]3[cH:26][cH:25][cH:24]2)[CH2:23][CH2:22]1,reductive_amination,"[(21, 1), ([1, 101], 301), (101, 21.1), ([21.1, 21], 21), (21, [21, 1]), ([1, 101], 101), ([302, 302.1], 1), ([1, 21], 21)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O=[CH:1][C:2]1([CH2:3][CH3:4])[CH2:5][S:6][c:7]2[cH:8][cH:9][cH:10][cH:11][c:12]2[C:13]([c:14]2[cH:19][cH:18][cH:17][cH:16][cH:15]2)=[N:20]1.c1ccc([P+](c2ccccc2)(c2ccccc2)[CH3:21])cc1>>[CH:1]([C:2]1([CH2:3][CH3:4])[CH2:5][S:6][c:7]2[cH:8][cH:9][cH:10][cH:11][c:12]2[C:13]([c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)=[N:20]1)=[CH2:21],[O:101]=[CH:1][C:2]1([CH2:3][CH3:4])[CH2:5][S:6][c:7]2[cH:8][cH:9][cH:10][cH:11][c:12]2[C:13]([c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)=[N:20]1.c1ccc([P+:102](c2ccccc2)(c2ccccc2)[CH3:21])cc1.[OH1-:301]>>[CH:1]([C:2]1([CH2:3][CH3:4])[CH2:5][S:6][c:7]2[cH:8][cH:9][cH:10][cH:11][c:12]2[C:13]([c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)=[N:20]1)=[CH2:21],Wittig,"[(301, 21.1), ([21.1, 21], 21), (21, 1), ([1, 101], 102), ([1, 101], [101, 102]), ([102, 21], [21, 1])]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[c:1]1[c:2]([C:3]([O:4][CH2:5][CH3:6])=[O:7])[cH:8][n:9][c:10]2[cH:11][cH:12][c:13]3[c:14]([c:15]12)[CH2:16][CH2:17][S:18]3(=[O:19])=[O:20].[CH3:21][N:22]([CH3:23])[CH2:24][CH2:25][NH2:26]>>[c:1]1([NH:26][CH2:25][CH2:24][N:22]([CH3:21])[CH3:23])[c:2]([C:3]([O:4][CH2:5][CH3:6])=[O:7])[cH:8][n:9][c:10]2[cH:11][cH:12][c:13]3[c:14]([c:15]12)[CH2:16][CH2:17][S:18]3(=[O:19])=[O:20],[Cl:101][c:1]1[c:2]([C:3]([O:4][CH2:5][CH3:6])=[O:7])[cH:8][n:9][c:10]2[cH:11][cH:12][c:13]3[c:14]([c:15]12)[CH2:16][CH2:17][S:18]3(=[O:19])=[O:20].[CH3:21][N:22]([CH3:23])[CH2:24][CH2:25][NH2:26]>>[c:1]1([NH:26][CH2:25][CH2:24][N:22]([CH3:21])[CH3:23])[c:2]([C:3]([O:4][CH2:5][CH3:6])=[O:7])[cH:8][n:9][c:10]2[cH:11][cH:12][c:13]3[c:14]([c:15]12)[CH2:16][CH2:17][S:18]3(=[O:19])=[O:20],SNAr(ortho),"[(26, 1), ([1, 2], [2, 3]), ([3, 7], 7), (7, [7, 3]), ([3, 2], [2, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
